US07166625B2
A mixture of 4,5-dimethylthiazole and bromoacetonitrile were heated with stirring at 95° C. for 1 hour. The product precipitated from the mixture within 30 minutes. After cooling to room temperature, the product a solution of 30% v/v of diethyl ether: CH3CN (10 mL) was added with stirring. The crude product was recovered by filtration, and recrystallized from a mixture of EtOH and CH3CN to yield 2.136 g of 3-(cyanomethyl)-4,5-dimethylthiazolium bromide as needles: mp 184–186° C. (dec.).

reactant | 4,5-dimethylthiazole | CC=1N=CSC1C | C5H7NS
reactant | bromoacetonitrile | BrCC#N | C2H2BrN
product | 3-(cyanomethyl)-4,5-dimethylthiazolium bromide | 2.136 g | [Br-].C(#N)C[N+]1=CSC(=C1C)C | InChI=1S/C7H9N2S.BrH/c1-6-7(2)10-5-9(6)4-3-8;/h5H,4H2,1-2H3;1H/q+1;/p-1
